US08044068B2
2-Chloro-4-dimethylamino-6-methylpyrimidine (3.5 g), t-butyl (3RS,4RS)-3-amino-4-hydroxypyrrolidine-1-carboxylate (4.5 g), N,N-diisopropylethylamine (5.3 mL), and n-butanol (10 mL) were stirred at 120° C. for 8 days. To the reaction mixture were added chloroform and saturated aqueous sodium hydrogencarbonate to separate the layers. The aqueous layer was extracted with chloroform, then the organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, and then the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=9:1) to obtain t-butyl (3RS,4RS)-3-(4-dimethylamino-6-methylpyrimidin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate (5.9 g).

reactant | 2-Chloro-4-dimethylamino-6-methylpyrimidine | 3.5 g | ClC1=NC(=CC(=N1)N(C)C)C | C7H10ClN3
reactant | t-butyl (3RS,4RS)-3-amino-4-hydroxypyrrolidine-1-carboxylate | 4.5 g | NC1CN(CC1O)C(=O)OC(C)(C)C | C9H18N2O3
reactant | N,N-diisopropylethylamine | 5.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | t-butyl (3RS,4RS)-3-(4-dimethylamino-6-methylpyrimidin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate | 5.9 g | CN(C1=NC(=NC(=C1)C)NC1CN(CC1O)C(=O)OC(C)(C)C)C | C16H27N5O3
